US08497380B2
2-(3,5-Dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-2-phenethyloxy-phenyl)-ethanone obtained from example 112 (89.3 mg, 0.1 mmol) was treated with piperidine (0.8 mL) and water (0.32 mL). The yellow suspension was heated to 90° C. for 54 hours. The solvent was evaporated in vacuo. The crude mixture was treated with NH4Cl (sat., 1 mL) and the organic products were extracted with EtOAc (3×2 mL). The combined organic phases was dried over Na2SO4 and evaporated in vacuo. Purification by flash chromatography using a gradient of EtOAc in toluene as eluent provided 2-(3,5-dichloro-pyridin-4-yl)-1-(4-hydroxy-3-methoxy-2-phenethyloxy-phenyl)-ethanone as a white solid. Yield 8.6 mg (20%). 2-(3,5-Dichloro-pyridin-4-yl)-1-(4-hydroxy-3-methoxy-2-phenethyloxy-phenyl)-ethanone (5.5 mg, 0.013 mmol) was dissolved in DMSO (0.45 mL) and treated with K2CO3 (0.019 mL of a 1M aq. solution) followed by ethyliodide (0.019 mL of a 1M solution in DMSO). The reaction mixture was left at rt for 48 hours and purified by standard HPLC purification. 2-(3,5-Dichloro-pyridin-4-yl)-1-(4-ethoxy-3-methoxy-2-phenethyloxy-phenyl)-ethanone was obtained as a colourless solid. Yield 3.2 mg (36%).

reactant | 2-(3,5-Dichloro-pyridin-4-yl)-1-(4-hydroxy-3-methoxy-2-phenethyloxy-phenyl)-ethanone | 0.013 mmol, 5.5 mg | ClC=1C=NC=C(C1CC(=O)C1=C(C(=C(C=C1)O)OC)OCCC1=CC=CC=C1)Cl | C22H19Cl2NO4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyliodide | C(C)I | C2H5I
solvent | DMSO | 0.45 mL | CS(=O)C | C2H6OS
product | 2-(3,5-Dichloro-pyridin-4-yl)-1-(4-ethoxy-3-methoxy-2-phenethyloxy-phenyl)-ethanone | ClC=1C=NC=C(C1CC(=O)C1=C(C(=C(C=C1)OCC)OC)OCCC1=CC=CC=C1)Cl | C24H23Cl2NO4
